US07053212B2
Step A: [4-(2-Pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzylidene]-amine
To a solution of 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (6.92 g, 33.5 mmol) and 4-(tetrahydro-pyran-2-yloxy)-benzaldehyde (7.25 g, 35.2 mmol) in 110 mL methylene chloride was added magnesium sulfate (14.2 g, 117.3 mmol). The reaction mixture was stirred at room temperature overnight under nitrogen. The reaction was filtered and concentrated to afford 13.3 g of the crude title compound of Step A which was used without further purification. MS 395.2 (M+1)+

reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 33.5 mmol, 6.92 g | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 4-(tetrahydro-pyran-2-yloxy)-benzaldehyde | 35.2 mmol, 7.25 g | O1C(CCCC1)OC1=CC=C(C=O)C=C1 | C12H14O3
reactant | magnesium sulfate | 117.3 mmol, 14.2 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | methylene chloride | 110 mL | C(Cl)Cl | CH2Cl2
product | [4-(2-Pyrrolidin-1-yl-ethoxy)-phenyl]-[4-(tetrahydro-pyran-2-yloxy)-benzylidene]-amine | 13.3 g | N1(CCCC1)CCOC1=CC=C(C=C1)N=CC1=CC=C(C=C1)OC1OCCCC1 | C24H30N2O3
